* SPDX-License-Identifier: Apache-2.0
* Two-input CML phase interpolator with analog tail-current weights.
.subckt phase_interpolator A_P A_N B_P B_N CTRL_A CTRL_B VBIAS_BUF VDD VSS CLK_P CLK_N

* The two matched input pairs sum current into one differential load.  A and B
* are adjacent reference phases; CTRL_A/CTRL_B are supplied by calibrated DACs.
XRL1P VDD N1P VSS ppolyf_u r_width=2u r_length=4.00u
XRL1N VDD N1N VSS ppolyf_u r_width=2u r_length=4.00u
XAP N1P A_P TA VSS nfet_03v3 w=5u l=0.28u m=2
XAN N1N A_N TA VSS nfet_03v3 w=5u l=0.28u m=2
XBP N1P B_P TB VSS nfet_03v3 w=5u l=0.28u m=2
XBN N1N B_N TB VSS nfet_03v3 w=5u l=0.28u m=2
XTAILA TA CTRL_A VSS VSS nfet_03v3 w=5u l=0.28u m=4
XTAILB TB CTRL_B VSS VSS nfet_03v3 w=5u l=0.28u m=4

* A second inversion restores positive phase polarity and isolates the
* interpolating node from the sampler clock load.
XRL2P VDD CLK_P VSS ppolyf_u r_width=2u r_length=5.25u
XRL2N VDD CLK_N VSS ppolyf_u r_width=2u r_length=5.25u
XBUFP CLK_P N1P TBUF VSS nfet_03v3 w=5u l=0.28u m=2
XBUFN CLK_N N1N TBUF VSS nfet_03v3 w=5u l=0.28u m=2
XTAILBUF TBUF VBIAS_BUF VSS VSS nfet_03v3 w=10u l=0.28u m=4
.ends phase_interpolator
